US06987114B1
1-Benzyl-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and benzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (264 mg, yield: 72.5%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 1-Benzyl-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 264 mg, yield: 72.5% | C(C1=CC=CC=C1)N1C(NC(C(=C1OC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C22H24N2O3
